US04062965
a. Preparation of 1,3-di-n-dodecyl-2-methyl-imidazole bromide
0.5 mole of 1-n-dodecyl-2-methylimidazole is dissolved in 250 ml of i-propanol and reacted with 0.6 mole of n-dodecyl bromide. The reaction mixture is heated for 10 hours with reflux. Upon separation of the solvent, the remaining residue is washed with ether, suctioned off, and dried.

reactant | 1-n-dodecyl-2-methylimidazole | 0.5 mole | C(CCCCCCCCCCC)N1C(=NC=C1)C | C16H30N2
reactant | n-dodecyl bromide | 0.6 mole | C(CCCCCCCCCCC)Br | C12H25Br
solvent | i-propanol | 250 ml | C(C)(C)O | C3H8O
product | 1,3-di-n-dodecyl-2-methyl-imidazole bromide | [Br-].C(CCCCCCCCCCC)N1C(N(C=C1)CCCCCCCCCCCC)C | InChI=1S/C28H56N2.BrH/c1-4-6-8-10-12-14-16-18-20-22-24-29-26-27-30(28(29)3)25-23-21-19-17-15-13-11-9-7-5-2;/h26-28H,4-25H2,1-3H3;1H/p-1
